US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-[(3R,5S)-3,5-dimethylpiperazin-1-yl]pyrazine-2-carboxamide
(2S,6R)-2,6-Dimethylpiperazine (228 mg, 2.00 mmol) was added in one portion to 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (388 mg, 1.00 mmol) in anhydrous dimethylsulfoxide (1.00 ml) at 25° C. The resulting solution was stirred at 100° C. for 18 h. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH to afford impure material. The concentrated eluent was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (164 mg, 35%) as a cream solid.

reactant | (2S,6R)-2,6-Dimethylpiperazine | 2.00 mmol, 228 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 1.00 mmol, 388 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C18H18ClN5O3
solvent | dimethylsulfoxide | 1.00 ml | CS(=O)C | C2H6OS
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-[(3R,5S)-3,5-dimethylpiperazin-1-yl]pyrazine-2-carboxamide | 164 mg, 35% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)N1C[C@H](N[C@H](C1)C)C | C24H31N7O3
